### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Finite): Add lemmas about min and max degrees 

### PR DESCRIPTION
**Pull request by lian-tattersall**
Add lemmas about the min and max degree for general and empty graphs. Refactor maxDegree_le_of_forall_degree_le using simp.

Co-authored-by: John Talbot [j.talbot@ucl.ac.uk](mailto:j.talbot@ucl.ac.uk)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 1]
```diff
@@ -357,18 +358,35 @@ theorem degree_le_maxDegree [DecidableRel G.Adj] (v : V) : G.degree v ≤ G.maxD
...
-  · haveI : Nonempty V := univ_nonempty_iff.mp hV
-    obtain ⟨v, hv⟩ := G.exists_maximal_degree_vertex
-    rw [hv]
-    apply h
-  · rw [not_nonempty_iff_eq_empty] at hV
-    rw [maxDegree, hV, image_empty]
-    exact k.zero_le
+  by_cases hV : IsEmpty V
+  · simp
+  · haveI := not_isEmpty_iff.1 hV
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:372]:
```suggestion
  · have := not_isEmpty_iff.1 hV
```

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 2]
```diff
@@ -357,18 +358,35 @@ theorem degree_le_maxDegree [DecidableRel G.Adj] (v : V) : G.degree v ≤ G.maxD
...
+    obtain ⟨_, hv⟩ := G.exists_maximal_degree_vertex
+    exact hv ▸ h _
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:374]:
```suggestion
    obtain ⟨_, rfl⟩ := G.exists_maximal_degree_vertex
    exact h _
```
untested, but I think it should work

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean (hunk 2 above)
Comment (lian-tattersall) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean:374]: Thanks for reviewing this PR. I tried this out but using rfl on line 373 is giving an error: 

tactic 'subst' failed, invalid equality proof, it is not of the form (x = t) or (t = x)
  G.maxDegree = G.degree w

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean:374]: Ah okay, my mistake then!

**Review by b-mehta — COMMENTED** [review]
Thanks! Nice golf :)

bors merge
